US05786218
Synthesis of P-Gly-Gly-Gly
Aminomethyl styrene resin was prepared from chloromethyl styrene resin (Polumer Laboratories, PL-CMS Resin, 1.0 meq/g) using the procedure of Weinshenker. Weinshenker, N. M.; Shen, C. M.; Wong, J. Y., Organic Synthesis, vol. 56, pp. 95-99. The aminomethyl resin was coupled with N-(Fmoc)glycine using a procedure similar to that described in Example 7. The Fmoc group was removed using a procedure similar to that described in Example 8. This sequence was repeated three times to give the title compound, which has three glycine residues attached to the polystyrene resin.

reactant | chloromethyl styrene | ClCC=CC1=CC=CC=C1 | C9H9Cl
reactant | N-(Fmoc)glycine | C(=O)(OCC1C2=CC=CC=C2C2=CC=CC=C12)NCC(=O)O | C17H15NO4
product | Aminomethyl styrene | NCC=CC1=CC=CC=C1 | C9H11N
